US09079866B2
5-{2′-[(4,6-Dimethylpyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)-4,6-dimethylpyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H18FN5O, 387.15; m/z found, 388.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.40 (s, 2H), 7.52-7.46 (m, 2H), 7.44-7.39 (m, 1H), 7.35-7.25 (m, 3H), 7.18 (d, J=8.0, 1H), 6.90 (s, 1H), 6.85 (s, 2H), 2.24 (s, 6H).

reactant | 2-(2-bromophenoxy)-4,6-dimethylpyrimidine | BrC1=C(OC2=NC(=CC(=N2)C)C)C=CC=C1 | C12H11BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(4,6-Dimethylpyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | CC1=NC(=NC(=C1)C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C22H18FN5O
